US04297499
The above-mentioned n-hexyldichlorosilane in an amount of 3.33 g (18 millimol), 3.36 g (20 millimol) of 1-dodecene and as a catalyst a solution of H2PtCl6 ·6H2O in isopropanol (0.05 mol % relative to dichlorosilane) were charged in a flask equipped with a cooler and the mixture was reacted with stirring in an oil bath at 50° C. for 15 hours. After reaction, reaction solution was distilled to obtain n-hexyldodecyldichlorosilane. The infrared spectrum of this compound is shown in FIG. 2. The absorption of Si--H band at 2213 cm-1 vanished. The NMR spectra of this compound is shown in FIG. 6. The formula (n--C6H13)(n--C12H25)SiCl2 for this compound was confirmed.

reactant | n-hexyldichlorosilane | C(CCCCC)[SiH](Cl)Cl | C6H14Cl2Si
reactant | 1-dodecene | 20 millimol, 3.36 g | C=CCCCCCCCCCC | C12H24
solvent | isopropanol | C(C)(C)O | C3H8O
product | n-hexyldodecyldichlorosilane | C(CCCCC)[Si](Cl)(Cl)CCCCCCCCCCCC | C18H38Cl2Si
